US06403610B1
A solution of 0.2 g of methyl (3R,4R)-4-[3-(R,S)-fluoro-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-carboxylate in 3 cm3 of 6N aqueous hydrochloric acid was heated with stirring at a temperature in the region of 100° C. for 7 hours and then evaporated under reduced pressure (5 kPa) at a temperature in the region of 50° C. The residue obtained was stirred in 10 cm3 of diisopropyl ether. The crystals which resulted therefrom were filtered off, washed with 2 times 5 cm3 of diisopropyl ether, and dried under reduced pressure (13 Pa) at a temperature in the region of 60° C. 0.22 g of (3R,4R)-4-[3-(R,S)-fluoro-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-carboxylic acid dihydrochloride were obtained in the form of a solid with a beige color melting with softening at a temperature in the region of 140° C.

reactant | methyl (3R,4R)-4-[3-(R,S)-fluoro-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-carboxylate | 0.2 g | FC(CC[C@H]1[C@H](CN(CC1)CCSC=1SC=CC1)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C26H31FN2O3S2
reactant | hydrochloric acid | 6N, 3 cm3 | Cl | ClH
solvent | diisopropyl ether | 10 cm3 | C(C)(C)OC(C)C | C6H14O
product | (3R,4R)-4-[3-(R,S)-fluoro-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-carboxylic acid dihydrochloride | 0.22 g | Cl.Cl.FC(CC[C@H]1[C@H](CN(CC1)CCSC=1SC=CC1)C(=O)O)C1=CC=NC2=CC=C(C=C12)OC | InChI=1S/C25H29FN2O3S2.2ClH/c1-31-18-5-7-23-20(15-18)19(8-10-27-23)22(26)6-4-17-9-11-28(16-21(17)25(29)30)12-14-33-24-3-2-13-32-24;;/h2-3,5,7-8,10,13,15,17,21-22H,4,6,9,11-12,14,16H2,1H3,(H,29,30);2*1H/t17-,21+,22?;;/m1../s1
